US08026270B2
(3-Chloro-4-{1-hydroxy-3-oxo-4,9-bis[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetic acid
To a solution of (3-chloro-4-{1,3-dioxo-4,9-bis[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetic acid (0.250 g, 0.45 mmol) in ethanol (10 ml) and tetrahydrofuran (20 ml), was added sodium borohydride (0.059 g, 1.56 mmol) in portions. A further addition of sodium borohydride (0.059 g, 1.56 mmol) was made and stirring continued for 10 minutes. The mixture was evaporated and then quenched with aqueous saturated ammonium chloride solution until the mixture was pH 7. This was extracted ×2 with ethyl acetate, washed with brine, dried over magnesium sulphate and evaporated to give the crude product (0.235 g, 0.42 mmol). LC/MS: Rt=3.28, [MH]+564.

reactant | (3-chloro-4-{1,3-dioxo-4,9-bis[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetic acid | 0.45 mmol, 0.250 g | ClC=1C=C(C=CC1N1C(C=2C(=C3C(=C(C2C1=O)OCC(F)(F)F)C=CC=C3)OCC(F)(F)F)=O)CC(=O)O | C24H14ClF6NO6
reactant | sodium borohydride | 1.56 mmol, 0.059 g | [BH4-].[Na+]
reactant | sodium borohydride | 1.56 mmol, 0.059 g | [BH4-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (3-Chloro-4-{1-hydroxy-3-oxo-4,9-bis[(2,2,2-trifluoroethyl)oxy]-1,3-dihydro-2H-benzo[f]isoindol-2-yl}phenyl)acetic acid | 0.42 mmol, 0.235 g | ClC=1C=C(C=CC1N1C(C=2C(=C3C(=C(C2C1O)OCC(F)(F)F)C=CC=C3)OCC(F)(F)F)=O)CC(=O)O | C24H16ClF6NO6
